US05506235
4-(Decylamino)quinolin-6-ol Hydrochloride
In a manner similar to that described in Example 49, Part B, 4-chloroquinolin-6-ol and decylamine were transformed into the title compound as the hydrochloride salt: m.p. 197°-199° C.

reactant | 4-chloroquinolin-6-ol | ClC1=CC=NC2=CC=C(C=C12)O | C9H6ClNO
reactant | decylamine | C(CCCCCCCCC)N | C10H23N
product | 4-(Decylamino)quinolin-6-ol Hydrochloride | Cl.C(CCCCCCCCC)NC1=CC=NC2=CC=C(C=C12)O | InChI=1S/C19H28N2O.ClH/c1-2-3-4-5-6-7-8-9-13-20-19-12-14-21-18-11-10-16(22)15-17(18)19;/h10-12,14-15,22H,2-9,13H2,1H3,(H,20,21);1H
